US06872730B2
Ethyl 3-(6-hydroxybenzo[b]thiophen-3-yl)propanoate (100 mg, 0.4 mmol) and 4-methylmorpholine (0.05 ml, 0.44 mmol) were dissolved in THF (5 ml) and stirred for 5 minutes. 2-[6-(Methylamino)-2-pyridyl]ethan-1-ol (91 mg, 0.6 mmol), triphenylphosphine (210 mg, 0.8 mmol) and diisopropyl azodicarboxylate (0.16 ml, 0.8 mmol) were added to the mixture sequentially. After stirring overnight under argon, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried with sodium sulfate, filtered and evaporated under vacuum. The crude product was chromatographed over silica gel to yield 30 mg (19%) of Ethyl 3-(6-{2-[6-(methylamino)-2-pyridyl]ethoxy}benzo[b]thiophen-3-yl)propanoate.

reactant | Ethyl 3-(6-hydroxybenzo[b]thiophen-3-yl)propanoate | 0.4 mmol, 100 mg | OC=1C=CC2=C(SC=C2CCC(=O)OCC)C1 | C13H14O3S
reactant | 4-methylmorpholine | 0.44 mmol, 0.05 ml | CN1CCOCC1 | C5H11NO
reactant | 2-[6-(Methylamino)-2-pyridyl]ethan-1-ol | 0.6 mmol, 91 mg | CNC1=CC=CC(=N1)CCO | C8H12N2O
reactant | triphenylphosphine | 0.8 mmol, 210 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.8 mmol, 0.16 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl 3-(6-{2-[6-(methylamino)-2-pyridyl]ethoxy}benzo[b]thiophen-3-yl)propanoate | 30 mg, 19% | CNC1=CC=CC(=N1)CCOC=1C=CC2=C(SC=C2CCC(=O)OCC)C1 | C21H24N2O3S
